US05728835
3-Methyl-4-nitro-N-(4-methoxyphenyl)benzamide
Using p-anisidine (738 mg, 6.0 mmol) and 3-methyl-4-nitrobenzoic acid (906 mg, 5.0 mmol), the procedure of Reference Example 16 was repeated to obtain 1.33 g (93.0%) of the title compound in the form of yellow powder.

reactant | p-anisidine | 6.0 mmol, 738 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | 3-methyl-4-nitrobenzoic acid | 5.0 mmol, 906 mg | CC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO4
product | 3-Methyl-4-nitro-N-(4-methoxyphenyl)benzamide | 1.33 g, 93.0% | CC=1C=C(C(=O)NC2=CC=C(C=C2)OC)C=CC1[N+](=O)[O-] | C15H14N2O4
